US05292760
2,2-Dimethyl-N-(2-methyl-4-trifluoromethylphenyl)propanamide
To a chilled (28° C.) solution of 4.91 g of 2,2-dimethyl-N-(4-trifluoromethylphenyl)propanamide and 80 ml tetrahydrofuran, was added over two mins, 18.5 ml of a 2.5M solution of N-butyllithium in hexane, with stirring. The reaction mixture was stirred for two hours at 0° C. and added, dropwise over eight minutes, to a solution of 3.19 g of iodomethane and 7 ml of hexane, keeping the temperature between -2° C.+1° C. The solution was stirred for 45 mins (internal temperature reached 18° C.). Water (20 ml) was added and the mixture was extracted with dichloromethane. The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated. The mixture was separated by preparative HPLC (Waters Associates Prep LC/System 500, silica gel, sample applied in and eluted with methylenechloride, 200 ml/min flow rate). The appropriate fractions were combined, concentrated, and the residue was recrystallized from toluene to give 2.23 g of product, mp 111°-114° C.

reactant | 2,2-dimethyl-N-(4-trifluoromethylphenyl)propanamide | 4.91 g | CC(C(=O)NC1=CC=C(C=C1)C(F)(F)F)(C)C | C12H14F3NO
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
reactant | N-butyllithium | [Li+].CCC[CH2-]
reactant | iodomethane | 3.19 g | IC | CH3I
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 7 ml | CCCCCC | C6H14
solvent | Water | 20 ml | O | H2O
product | 2,2-Dimethyl-N-(2-methyl-4-trifluoromethylphenyl)propanamide | 2.23 g | CC(C(=O)NC1=C(C=C(C=C1)C(F)(F)F)C)(C)C | C13H16F3NO
